Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
trazodone
 
Attending: ___.
 
Chief Complaint:
Right Ankle Cellulitis
 
Major Surgical or Invasive Procedure:
___ - R ankle joint tap
___ - R ankle intraarticular steroid injection 

 
History of Present Illness:
___ year old Male who presents with right ankle swelling and 
erythema. THe patient states the swelling was noted on the day 
of presentation. He states ambulation has been painful for 
several days prior to admission. Patient denies any trauma to 
the site but does have a history of falls, but does not feel he 
has fallen injuring the ankle. The patient denies any high 
fevers, but did have a low grade temperature prior to being seen 
in the ED.

Initial vitals in the ___ ED were 100.3, 90, 214/99, 16, 96% 
He was given cefazolin, amlodipine and Tylenol. His blood 
pressure improved with the amlodipine in the ED back to normal 
123/52. As there was concern for septic arthritis he was 
evaluated by orthopedics who felt he did not have septic 
arthritis, and that he needs antibiotics, elevation and ice.

ROS:
 GEN: - fevers, - Chills, - Weight Loss
 EYES: - Photophobia, - Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia
 PULM: - Dyspnea, - Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: + Myalgia, - Arthralgia, - Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, - Headache
Remainder of 10-point ROS negative except as above.
 

 
Past Medical History:
Primary Hypertension
CKD Stage II
anemia. 
glaucoma
osteoarthritis,
elevated PSA

 
Social History:
___
Family History:
Mother and father are both deceased.  No history of MI, stroke, 
or cancer.  Brothers and sisters deceased of unclear causes as 
per the patient.

 
Physical Exam:
ADMISSION 
VSS: 98, 178/96, 20, 98%RA
 GEN: NAD
 Pain: ___
 HEENT: MMM, - OP Lesions
 EYES: ___, Surgical pupils, arcus sinilis
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: NT/ND, +BS, - CVAT
 EXT: - CCE, Erythema and edema over lasteral aspect of right 
ankle all within ink line, no pain on passive ROM Right ankle, 
notes some pain on active ROM, site tender to palpation
 NEURO: Alert (although somewhat confused about why he's here), 
motor ___ ___ Flex/Ext/Finger Spread

DISCHARGE
VS: 24 HR Data (last updated ___ @ 814)
    Temp: 98.2 (Tm 99.4), BP: 148/88 (115-171/77-90), HR: 97
(88-102), RR: 18, O2 sat: 95% (95-98), O2 delivery: Ra  
Gen - sitting up in bed, comfortable appearing, hard of hearing
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normal bowel sounds 
Ext - full range of motion in R ankle, mild associated pain; no
effusion or erythema; R shoulder with mild pain with active and
passive motion in all planes, improved from day prior; 
Skin - no rashes 
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 03:50PM BLOOD WBC-5.2 RBC-3.36* Hgb-10.9* Hct-34.0* 
MCV-101* MCH-32.4* MCHC-32.1 RDW-13.0 RDWSD-48.2* Plt ___
___ 03:50PM BLOOD Glucose-113* UreaN-15 Creat-1.4* Na-142 
K-4.3 Cl-105 HCO3-25 AnGap-12
___ 03:50PM BLOOD CRP-30.2*

WORKUP 
___ 07:00AM BLOOD CRP-91.9*

DISCHARGE
___ 09:31AM BLOOD WBC-7.0 RBC-3.43* Hgb-11.2* Hct-33.7* 
MCV-98 MCH-32.7* MCHC-33.2 RDW-13.1 RDWSD-46.5* Plt ___
___ 09:31AM BLOOD Glucose-92 UreaN-24* Creat-1.4* Na-137 
K-5.9* Cl-104 HCO3-22 AnGap-11

ANKLE (AP, MORTISE & LA - ___
Lateral soft tissue swelling.  No fracture. 

ANKLE (AP, MORTISE & LA - ___
No evidence of fracture or acute osseous abnormality. 

SHOULDER (AP, NEUTRAL & - ___
Osseous demineralization.  No acute fracture or dislocation 
seen. 
 
Brief Hospital Course:
This is a ___ year old male with past medical history of 
dementia, CKD 3, glaucoma, admitted w R foot cellulitis, course 
complicated by R ankle pseudogout flare, treated with 
intra-articular steroid injection with subsequent improvement, 
able to be discharged to rehab

# R foot cellulitis
# R foot pain
Patient was admitted with 1 day of redness over R foot and 
ankle.  Given his dementia, he was unable to provide history 
regarding duration of symptoms or whether he had preceding 
trauma.  Xray without acute process.  He was seen by orthopedic 
surgery consult in ED and was noted to have full range of motion 
in ankle without pain.  Exam was felt to be consistent with 
cellulitis.  Patient started on IV vancomycin + cefazolin.  
Erythema and swelling initially improved, but then pain 
worsened, prompting additional workup as below.  De-escalated to 
Keflex and completed 5 days of antibiotics prior to discharge. 

# R ankle psuedogout 
# R ankle pain 
Following initial clinical improvement, patient's course was 
complicated by worsening ankle pain and new pain with active and 
passive motion. Patient was re-seen by orthopedic consult 
service and underwent joint tap, which showed 19k WBCs, 111k 
RBCs, and rhomboid crystals, consistent with pseudogout.  
Patient was seen by rheumatology consult service who, given 
patient's CKD and age, recommended against systemic NSAID and 
steroid treatment.  Recommended initial treatment with pain 
control--per patient's son, he becomes very sedated with any 
pain medications other than Tylenol.  Utilized Tylenol with good 
effect.  After 48 hours of negative cultures, rheumatology 
performed intraarticular steroid injection.  Over subsequent 24 
hours, pain markedly improved.  He was evaluated and recommended 
for discharge to rehab facility. 

# R shoulder pain 
Hospital course also notable for R shoulder pain.  Exam without 
findings to suggest infection or referred neurologic etiology.  
Given he was unable to provide reliable history of events prior 
to his presentation, a plain film was performed to look for 
fracture--no signs of fracture.  Suspected to have benign muscle 
strain on top of
chronic arthritis. Improved with pain control with Tylenol and 
Lidoderm.  

# Glaucoma 
Continued Dorzolamide-Timolol

# Medication intolerance
# Acute metabolic encephalopathy
Following admission, patient received 1 dose of trazodone, and 
subsequently developed sedation.  No new neurologic findings.  
Symptoms resolved after 24 hours.  Suspected to be medication 
intolerance of trazodone.  Added to allergy list.  

Transitional issues
- Discharged to rehab
- Please arrange for PCP ___ at ___ following discharge 
from rehab facility
- Contact: Son ___ ___ 

> 30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Lidocaine 5% Patch 1 PTCH TD QAM  
3.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# R ankle psuedogout 
# R ankle pain
# R ankle cellulitis
# R shoulder pain
# Glaucoma 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with ankle pain.  

You were found to have a skin infection (cellulitis).  You were 
treated with antibiotics and improved.  

You were then found to have ankle pain.  You were seen by joint 
specialists (rheumatologists) who diagnosed you with a condition 
called pseudogout.  You were treated with a steroid injection.

You improved and are now ready for discharge to a rehabilitation 
facility. 
 
Followup Instructions:
___